US08084448B2
E. 3-Hydroxymethyl-3,4-dihydro-2H-naphtho[1,8-cd]azepin-1-one
To a solution of 1-oxo-1,2,3,4-tetrahydronaphtho[1,8-cd]azepine-3-carboxylic acid methyl ester (70 mg, 0.28 mmol) in MeOH (5 mL) is added LiBH4 (18.3 mg, 0.83 mmol) and the mixture is stirred at RT for 1 h. Ethyl acetate is added followed by ice and 1N HCl. The mixture is washed with brine then water and the organic phase is dried over magnesium sulfate. The solvent is removed under reduced pressure and the residue purified by preparative HPLC to give the title compound.

reactant | 1-oxo-1,2,3,4-tetrahydronaphtho[1,8-cd]azepine-3-carboxylic acid methyl ester | 0.28 mmol, 70 mg | COC(=O)C1CC(C2=CC=CC=3C2=C1CN=CC3)=O | C15H13NO3
reactant | LiBH4 | 0.83 mmol, 18.3 mg | [Li+].[BH4-]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | HCl | 1N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
product | 3-Hydroxymethyl-3,4-dihydro-2H-naphtho[1,8-cd]azepin-1-one | OCC1CC(C2=CC=CC=3C2=C1CN=CC3)=O | C14H13NO2
